US04159331
To a mixture of 6.42 g (0.03736 m) of 1-(2-pyridinyl)piperazine, 5.21 ml (0.03736 m) of triethylamine, and 250 ml of tetrahydrofuran is added 8.28 g (0.03736 m) of p-nitrobenzenesulfonyl chloride. The mixture is stirred at room temperature for 12/3 hours, after which it is concentrated in vacuo. The residue is then extracted with methylene chloride and aqueous sodium bicarbonate and the organic layer is taken to dryness to give 10.62 g (82%) of 1-[(p-nitrophenyl)sulfonyl]-(2-pyridinyl)piperazine.

reactant | 1-(2-pyridinyl)piperazine | 6.42 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | 5.21 ml | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzenesulfonyl chloride | 8.28 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-[(p-nitrophenyl)sulfonyl]-(2-pyridinyl)piperazine | 10.62 g, 82% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1C(CNCC1)C1=NC=CC=C1 | C15H16N4O4S
